US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 5d, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (358 mg, 1.2 mmol) was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (160 mg, 43%) which was obtained as a white solid after purification by chromatography (silica, 0 to 70% ethyl acetate in heptane). MS: m/e=374.3 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.2 mmol, 358 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 160 mg, 43% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC2CCOCC2)C=C1)C | C20H27N3O4
